US07153854B2
To a solution of 7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carbaldehyde (40 mg) was added 1N sodium hydroxide (19.3 mg) and acetone (0.425 mL) at ambient temperature. After 8 hours, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by p-TLC (hexane-ethyl acetate=5-1) to give (3E)-4-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]-pyridazin-3-yl]-3-buten-2-one as an yellow solid (33 mg).

reactant | 7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carbaldehyde | 40 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)C=O)C(C)C | C17H14ClFN2O
reactant | sodium hydroxide | 1N, 19.3 mg | [OH-].[Na+]
reactant | acetone | 0.425 mL | CC(=O)C | C3H6O
product | (3E)-4-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]-pyridazin-3-yl]-3-buten-2-one | 33 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)/C=C/C(C)=O)C(C)C | C20H18ClFN2O
